datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:8])([H:6])[H:7],44.0994
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([H:15])[O:7]1.[O:8][H:19],67.082072
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],107.78
[H:0].[N:1]=[C:2]=[O:3]>>[H:0][N:1]=[C:2]=[O:3],-1.230096
[O:0]([C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])[H:6].[O:12][O:13][H:14]>>[H:6][O:12][O:13][H:14].[O:0][C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11],66.1072
[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:6])[H:7].[H:5][C:11]([H:12])([H:13])[H:14],29.7
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])=[C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],74.3915
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:4],22.8446
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-17.5728
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:16])([H:4])[H:5].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18],40.1664
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16])([H:7])([H:8])[H:9],134.808
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:22])[H:13])([H:10])([H:11])[H:12],16.6942
[H:0].[O:1][C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]2[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]12)([H:13])[H:14]>>[H:0][H:13].[O:1]=[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]2[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]12)[H:14],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:9],24.618656
[H:5].[O:0]([O:1][O:2][H:4])[H:3]>>[O:0][H:3].[O:1]([O:2][H:4])[H:5],37.1751
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:30])([H:31])[H:32])([C:29]([H:34])([H:35])[H:36])[H:33])[H:15])([H:13])[H:14],20.5016
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13](=[C:14]([H:16])[H:17])[H:15])([H:5])[H:6],19.9995
[S:0]([H:1])[H:2].[S:3][H:4]>>[H:1].[S:0]([H:2])[S:3][H:4],111.713
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][O:17][O:16][C:15]([H:18])([H:19])[H:20],29.932336
